US05346913
To a stirred solution of 1-benzyl-3-propargyl-5,5-dimethylhydantoin (1.2 g, 4.6 mmole) in acetone (50 mL) at room temperature was added finely ground silver nitrate (0.15 g. 0.8 mmole), followed by N-iodosuccinimide (1.16 g, 5.2 mmole). The reaction mixture was stirred at room temperature for 5 hr. The reaction mixture was then passed through Celite by suction filtration and washed with acetone. The titrate was concentrated on a rotary evaporator and diluted with ethyl acetate. The solution was washed with water and brine and dried over sodium sulfate. The solvent was evaporated on a rotary evaporator to give 1.5 g of 1-benzyl-3-(3-iodo-2-propynyl)-5,5-dimethylhydantoin as a solid, mp=109°-112° C. An NMR spectrum also showed the desired structure.

reactant | 1-benzyl-3-propargyl-5,5-dimethylhydantoin | 4.6 mmole, 1.2 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C1(C)C)CC#C | C15H16N2O2
reactant | N-iodosuccinimide | 5.2 mmole, 1.16 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.8 mmole, 0.15 g | [N+](=O)([O-])[O-].[Ag+]
product | 1-benzyl-3-(3-iodo-2-propynyl)-5,5-dimethylhydantoin | 1.5 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C1(C)C)CC#CI | C15H15IN2O2
